US09447033B2
3-[Benzyl-(pyridine-3-sulfonyl)-amino]-N-isopropyl-benzamide was prepared from 3-[benzyl-(pyridine-3-sulfonyl)-amino]-benzoic acid and isopropylamine according to the method described for Example 2. HPLC retention time 5.46 min. Mass spectrum (APCI+) m/z 410 (M+H).

reactant | 3-[benzyl-(pyridine-3-sulfonyl)-amino]-benzoic acid | C(C1=CC=CC=C1)N(C=1C=C(C(=O)O)C=CC1)S(=O)(=O)C=1C=NC=CC1 | C19H16N2O4S
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 3-[Benzyl-(pyridine-3-sulfonyl)-amino]-N-isopropyl-benzamide | C(C1=CC=CC=C1)N(C=1C=C(C(=O)NC(C)C)C=CC1)S(=O)(=O)C=1C=NC=CC1 | C22H23N3O3S
